US09163021B2
Ethyl (5-chloropyridin-2-yl)acetate
Cesium carbonate (71 g, 218 mmol) was added to 2-bromo-5-chloropyridine (14 g, 73 mmol) and diethyl malonate (22 mL, 145 mmol) in dry 1,4-dioxane (280 mL) and the solution was degassed with argon for 30 minutes. Then copper (I) oxide (2.8 g, 14.55 mmol) and picolinic acid (3.6 g, 29 mmol) were added and the mixture was stirred in a sealed vessel at 130° C. for 24 hours. The mixture was cooled to room temperature, quenched with water (100 mL) and extracted with EtOAc (3×100 mL). The organic extracts were washed with water (200 mL), brine (200 mL), dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with EtOAc: Hexane 92: 8 to afford the title compound as a yellow oil (54%, 8.0 g).

reactant | Cesium carbonate | 218 mmol, 71 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-5-chloropyridine | 73 mmol, 14 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | diethyl malonate | 145 mmol, 22 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | picolinic acid | 29 mmol, 3.6 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | 1,4-dioxane | 280 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) oxide | 14.55 mmol, 2.8 g | [Cu-]=O
product | Ethyl (5-chloropyridin-2-yl)acetate | 8.0 g, 54% | ClC=1C=CC(=NC1)CC(=O)OCC | C9H10ClNO2
